US06803484B2
Preparation of (2R)-2-phenylpropylamine
A 500 mL three necked round bottom flask equipped with a mechanical stirrer, thermometer and addition funnel is charged with 2-((2R)-2-phenylpropyl)isoindoline-1,3-dione (11.54 g, 43.49 mmol), toluene (200.0 mL) and anhydrous hydrazine (2.73 mL, 86.99 mmol). Reaction is then stirred at room temperature for 3.0 hours and then heated at 90° C.-95° C. for 2.0 hours. Cooled the slurry to room temperature, filtered precipitates, then concentrated filtrate to provide the intermediate title compound, (2R)-2-phenylpropylamine, (5.58 g, 94.9%) an oil; 1H nmr (CDCl3, 300 MHz) δ 1.21 (d,3H), 1.40-1.60 (b, 2H), 2.68-2.80 (m, 1H), 2.81-2.87 (m, 2H) 7.20 (m, 2H), 7.32 (m, 2H).

reactant | 2-((2R)-2-phenylpropyl)isoindoline-1,3-dione | 43.49 mmol, 11.54 g | C1(=CC=CC=C1)[C@H](CN1C(C2=CC=CC=C2C1=O)=O)C | C17H15NO2
reactant | hydrazine | 86.99 mmol, 2.73 mL | NN | H4N2
solvent | toluene | 200.0 mL | C1(=CC=CC=C1)C | C7H8
product | (2R)-2-phenylpropylamine | 5.58 g, 94.9% | C1(=CC=CC=C1)[C@H](CN)C | C9H13N
